US04737516
(U) 3-Methoxymethyl-7-methyl-benzo[b]thiophene
400 mg of 3-hydroxymethyl-7-methyl-benzo[b]thiophene are dissolved in tetrahydrofuran, mixed with 82 mg of NaH (80%) and after addition of 48 mg of methyl iodide heated for half an hour at 50° C. The reaction mixture is mixed with water, repeatedly extracted and the organic phase washed, dried and concentrated on a rotary evaporator. The residue is chromatographed over silica-gel (eluant: toluene/glacial acetic acid=95:5) to yield the title compound as an oil.

reactant | 3-hydroxymethyl-7-methyl-benzo[b]thiophene | 400 mg | OCC=1C2=C(SC1)C(=CC=C2)C | C10H10OS
reactant | NaH | 82 mg | [H-].[Na+]
reactant | methyl iodide | 48 mg | CI | CH3I
reactant | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-Methoxymethyl-7-methyl-benzo[b]thiophene | COCC=1C2=C(SC1)C(=CC=C2)C | C11H12OS
